US06395733B1
(3-Chloro-4-fluoro-phenyl)-(6-methyl-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride
This product was prepared from 6-methyl-pyrido[3,4-d]pyrimid-4-one (1.0 eq.) and 3-chloro-4-fluoro-aniline (1.5 eq.) according to the procedure described for Example 61. The crude product from the filtrate was chromatographed on silica using a gradient of 0% to 10% methanol/methylene chloride to afford the free base of the title product which was converted to the title product as described for Example 60 (47%; M.P. 251-258° C.; LC-MS: 289, 291 (MH+); anal. RP-HPLC:4.18 min.).

reactant | 6-methyl-pyrido[3,4-d]pyrimid-4-one | 1.0 eq. | CC1=CC2=C(N=CNC2=O)C=N1 | C8H7N3O
reactant | 3-chloro-4-fluoro-aniline | 1.5 eq. | ClC=1C=C(N)C=CC1F | C6H5ClFN
product | (3-Chloro-4-fluoro-phenyl)-(6-methyl-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride | Cl.ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=C2)C | InChI=1S/C14H10ClFN4.ClH/c1-8-4-10-13(6-17-8)18-7-19-14(10)20-9-2-3-12(16)11(15)5-9;/h2-7H,1H3,(H,18,19,20);1H
